US04666504
4-Carboxy-1-(4-chlorophenyl)-5-pyrazolecarboxamide.
The process of Example 2 was followed, starting with 3.7 g. of ethyl 1-(4-chlorophenyl)-5-cyano-4-pyrazolecarboxylate and 2 g. of sodium hydroxide in 60 ml. of denatured ethanol and 60 ml. of water to obtain 2.3 g. of the desired product, m.p. 249°-250° . The elemental analysis was as follows.

reactant | ethyl 1-(4-chlorophenyl)-5-cyano-4-pyrazolecarboxylate | ClC1=CC=C(C=C1)N1N=CC(=C1C#N)C(=O)OCC | C13H10ClN3O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-Carboxy-1-(4-chlorophenyl)-5-pyrazolecarboxamide | C(=O)(O)C=1C=NN(C1C(=O)N)C1=CC=C(C=C1)Cl | C11H8ClN3O3
